US08236826B2
Production of 2-[(4-{5-[(3,4-dichlorobenzylidene)-amino]pyridin-2-yloxy}phenyl)methylamino]-1-(4-piperonylpiperazin-1-yl)ethanone
2-{[(4-(5-aminopyridin-2-yloxy)phenyl]methylamino}-1-(4-piperonylpiperazin-1-yl)ethanone (7.80 g, 16.4 mmol) was dissolved in methanol (400 mL), and to the resulting solution was added 3,4-dichlorobenzaldehyde (2.87 g, 16.4 mmol). This solution was refluxed for 16 hours. The resulting reaction solution was concentrated under reduced pressure, to thereby yield 10.4 g of the title compound.

reactant | [(4-(5-aminopyridin-2-yloxy)phenyl]methylamino}-1-(4-piperonylpiperazin-1-yl)ethanone | 16.4 mmol, 7.80 g | NC=1C=CC(=NC1)OC1=CC=C(C=C1)CNCC(=O)N1CCN(CC1)CC1=CC=2OCOC2C=C1 | C26H29N5O4
reactant | 3,4-dichlorobenzaldehyde | 16.4 mmol, 2.87 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
solvent | methanol | 400 mL | CO | CH4O
product | 2-[(4-{5-[(3,4-dichlorobenzylidene)-amino]pyridin-2-yloxy}phenyl)methylamino]-1-(4-piperonylpiperazin-1-yl)ethanone | ClC=1C=C(C=NC=2C=CC(=NC2)OC2=CC=C(C=C2)CNCC(=O)N2CCN(CC2)CC2=CC=3OCOC3C=C2)C=CC1Cl | C33H31Cl2N5O4
